US06184245B2
Synthesis of Compound 9: 3-{(2-furan-2-yl)}acetyl-4-hydroxy-coumarin
1.55 g (12.3 mmol) of the furanacetic acid, 1.99 g (12.3 mmol) of 4-hydroxycoumarin and 2.83 g (13.7 mmol) of DCC were suspended in 50 ml of toluene, then 149 mg (1.22 mmol) of DMAP added and stirring carried out overnight at 60° C. The reaction liquid was then cooled to room temperature and the insoluble material filtered off. The mother liquor was concentrated and the residue purified by column chromatography. The solid obtained was recrystallized from methanol and Compound 9. (594 mg, 2.20 mmol, 18%) obtained. This was converted to the sodium salt with an equivalent amount of sodium hydrogen carbonate.

reactant | furanacetic acid | 12.3 mmol, 1.55 g | O1C(=CC=C1)CC(=O)O | C6H6O3
reactant | 4-hydroxycoumarin | 12.3 mmol, 1.99 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | DCC | 13.7 mmol, 2.83 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium | [Na] | Na
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 1.22 mmol, 149 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-{(2-furan-2-yl)}acetyl-4-hydroxy-coumarin | O1C(=CC=C1)CC(=O)C=1C(OC2=CC=CC=C2C1O)=O | C15H10O5
